US08349851B2
To a solution of 2-bromo-2-(4-fluorophenyl)acetic acid (425 mg, 1.82 mmol) in DCM (5 mL) and DMF (0.05 mL) was added oxalyl chloride (0.17 mL, 1.91 mmol) and the solution was stirred for 0.75 h. The solution was then cooled to 0° C. and a solution of 2-amino-4-fluorobenzamide (267 mg, 1.73 mmol) in pyridine (1 mL) was added. The solution was stirred at rt for 1 h and then evaporated. The crude residue was partitioned between EtOAc and 2 N HCl. The EtOAc layer was evaporated to give 2-(2-bromo-2-(4-fluorophenyl)acetamido)-4-fluorobenzamide as a crude oil which was used without further purification. (420 mg, 62%). LC-MS (ESI) m/z 369 (M−H)−.

reactant | 2-bromo-2-(4-fluorophenyl)acetic acid | 1.82 mmol, 425 mg | BrC(C(=O)O)C1=CC=C(C=C1)F | C8H6BrFO2
reactant | oxalyl chloride | 1.91 mmol, 0.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-4-fluorobenzamide | 1.73 mmol, 267 mg | NC1=C(C(=O)N)C=CC(=C1)F | C7H7FN2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.05 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-bromo-2-(4-fluorophenyl)acetamido)-4-fluorobenzamide | BrC(C(=O)NC1=C(C(=O)N)C=CC(=C1)F)C1=CC=C(C=C1)F | C15H11BrF2N2O2
